.options nonlin contiuation=gmin
.options timeint method=trap
.options device temp=25
.options parser model_binning=true

.param mc_mm_switch=0
.param mc_pr_switch=0
.lib "/home/chenliyu/OpenLane/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice" tt
*.lib "/n/ludington/y/chenliyu/skywater-pdk/libraries/sky130_fd_pr_ngspice/latest/models/sky130.lib.spice" tt
*.include "/n/ludington/y/chenliyu/skywater-pdk/libraries/sky130_fd_pr_ngspice/latest/models/r+c/res_typical__cap_typical__lin.spice"
*.include "/n/ludington/y/chenliyu/skywater-pdk/libraries/sky130_fd_pr_ngspice/latest/models/r+c/res_typical__cap_typical.spice"
*.include "/n/ludington/y/chenliyu/skywater-pdk/libraries/sky130_fd_pr_ngspice/latest/models/corners/tt.spice"

.param kw = 1
.param pvdd = 1.8
*.param len = 1
vdd  supply 0 dc 'pvdd'
vsig vi     0 dc 1.8
*vds1  vd1    0 dc 0.5
vds2  vd2    0 dc 0

*XM1 supply vi 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 
*XM1 vi vi 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=2.1 
XM2 vi vi 0 0 sky130_fd_pr__nfet_01v8 L=7.5 W=42 

.op
.DC vsig 0 1.8 0.1
*.DC len 1 10 1

*.print dc FORMAT=GNUPLOT V(vi)
*.print dc FORMAT=GNUPLOT N(XM1:MSKY130_FD_PR__NFET_01V8:Vth)
*.print dc FORMAT=GNUPLOT N(XM1:MSKY130_FD_PR__NFET_01V8:gds)
.print dc FORMAT=GNUPLOT N(XM2:MSKY130_FD_PR__NFET_01V8:gds)
.print dc FORMAT=GNUPLOT N(XM2:MSKY130_FD_PR__NFET_01V8:gm)
*.print dc FORMAT=GNUPLOT N(XM1:MSKY130_FD_PR__NFET_01V8:gm)
*.print dc FORMAT=GNUPLOT N(XM1:MSKY130_FD_PR__NFET_01V8:Vdsat)
*.print dc FORMAT=GNUPLOT N(XM1:MSKY130_FD_PR__NFET_01V8:Cgs)
*.print dc FORMAT=GNUPLOT N(XM1:MSKY130_FD_PR__NFET_01V8:Cgd)

*.print dc FORMAT=GNUPLOT ID(XM1:MSKY130_FD_PR__NFET_01V8)
*.print dc FORMAT=GNUPLOT ID(XM2:MSKY130_FD_PR__NFET_01V8)

*.print dc FORMAT=GNUPLOT (XM2:MSKY130_FD_PR__NFET_01V8:NTNOI)
*.print dc FORMAT=GNUPLOT (XM2:MSKY130_FD_PR__NFET_01V8:TOX)
*.print dc FORMAT=GNUPLOT I(*) V(*)
.end
